US06624160B2
N-(4-chlorobenzyl)-1-methyl-6-(4-morpholinylmethyl)-4-oxo-1,4-dihydro-3-cinnolinecarboxamide
To a suspension of N-(4-chlorobenzyl)-4-hydroxy-6-(4-morpholinylmethyl)-3-cinnolinecarboxamide [Preparation 12] (200 mg) in dry DMSO (15 mL) is added lithium bis(trimethylsilyl)amide (0.51 mL of a 1 M solution in hexanes). The mixture is stirred for 15 min over which time everything dissolves. Methyl iodide (0.032 mL) is then added and the reaction is stirred for an additional 2 h. The mixture is partitioned between EtOAc and water. The aqueous layer is extracted with EtOAc (3×). The combined organic layers are washed with brine, dried and condensed. The crude product is chromatographed on silica (gradient CH2Cl2, 1% MeOH/CH2Cl2, 2% MeOH/CH2Cl2, 3% MeOH/CH2Cl2). Fractions homogeneous by TLC are combined and concentrated. The residue from the column is dissolved in CH2Cl2. Hexanes are added to precipitate the product. The resulting solid is collected and dried to yield 0.079 g (39%) of the title compound as a white solid. Physical characteristics are the same as reported above.

reactant | N-(4-chlorobenzyl)-4-hydroxy-6-(4-morpholinylmethyl)-3-cinnolinecarboxamide | 200 mg | ClC1=CC=C(CNC(=O)C=2N=NC3=CC=C(C=C3C2O)CN2CCOCC2)C=C1 | C21H21ClN4O3
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | Methyl iodide | 0.032 mL | CI | CH3I
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
product | N-(4-chlorobenzyl)-1-methyl-6-(4-morpholinylmethyl)-4-oxo-1,4-dihydro-3-cinnolinecarboxamide | 0.079 g, 39% | ClC1=CC=C(CNC(=O)C2=NN(C3=CC=C(C=C3C2=O)CN2CCOCC2)C)C=C1 | C22H23ClN4O3
